US07105544B2
N-(3-{4-[5-(ISOBUTYRYLAMINO)-2-METHYLPHENYL]-1-PIPERIDINYL}PROPYL)-2,2-DIPHENYLPROPANAMIDE
Example 96 was prepared from 2,2-diphenylpropanoic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 7.37–7.23 (m, 13H), 7.08 (d, 1H, J=8.8 Hz), 6.14 (t, 1H, J=5.6 Hz), 3.37 (dd, 2H, J=6.4, 12.0 Hz), 2.90 (d, 2H, J=11.6 Hz), 2.63 (m, 1H), 2.49 (m, 1H), 2.31 (t, 2H, J=6.8 Hz), 2.27 (s, 3H), 2.02 (s, 3H), 1.99–1.94 (m, 2H), 1.71–1.59 (m, 6H), 1.25 (d, 6H, J=7.2 Hz); ESMS m/e: 526.3 (M+H)+.

reactant | 2,2-diphenylpropanoic acid | C1(=CC=CC=C1)C(C(=O)O)(C)C1=CC=CC=C1 | C15H14O2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1C)NC(C(C)C)=O | C19H31N3O
product | N-(3-{4-[5-(ISOBUTYRYLAMINO)-2-METHYLPHENYL]-1-PIPERIDINYL}PROPYL)-2,2-DIPHENYLPROPANAMIDE | C(C(C)C)(=O)NC=1C=CC(=C(C1)C1CCN(CC1)CCCNC(C(C)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C | C34H43N3O2
